US07795236B2
2-(Methylthio)-4-phenylbenzaldehyde
To a solution of 2-fluoro-4-phenylbenzaldehyde (0.400 g) in N,N-dimethylformamide (4 mL) was added sodium methane-thiolate (0.210 g), and the resulting mixture was stirred at 50° C. for 2.5 hours. The reaction mixture was cooled to room temperature and then partitioned between diethyl ether (30 mL) and water (10 mL). The organic layer was washed successively with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.387 g).

reactant | 2-fluoro-4-phenylbenzaldehyde | 0.400 g | FC1=C(C=O)C=CC(=C1)C1=CC=CC=C1 | C13H9FO
reactant | sodium methane-thiolate | 0.210 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-(Methylthio)-4-phenylbenzaldehyde | 0.387 g | CSC1=C(C=O)C=CC(=C1)C1=CC=CC=C1 | C14H12OS
